US07049438B2
4-(6-chloro-2,3-methylenedioxyanilino)-5-phenoxyquinazoline monohydrochloride
A mixture of 4-(6-chloro-2,3-methylenedioxyanilino)-5-fluoroquinazoline (0.213 g), phenol (0.45 g), potassium carbonate (0.828 g) and DMF (3 ml) was stirred and heated to 90° C. for 30 hours. The mixture was evaporated and the residue was partitioned between ethyl acetate and a 2N aqueous sodium hydroxide solution. The organic layer was washed with brine, dried over magnesium sulphate and evaporated. The residue was purified by column chromatography on silica using a 99:1 mixture of methylene chloride and methanol as eluent. The material so obtained was dissolved in diethyl ether and a 6M solution of hydrogen chloride in diethyl ether (1 equivalent) was added. The resultant solid was isolated, washed with diethyl ether and dried under vacuum. There was thus obtained the title compound (0.05 g); NMR Spectrum: (DMSOd6 and CF3CO2D) 6.18 (s, 2H), 6.95 (d, 1H), 7.05 (d, 1H), 7.1 (d, 1H), 7.35 (d, 1H), 7.42 (m, 1H), 7.52–7.62 (m, 3H), 8.0 (m, 1H), 9.0 (s, 1H); Mass Spectrum: M+H+ 392 and 394.

reactant | 4-(6-chloro-2,3-methylenedioxyanilino)-5-fluoroquinazoline | 0.213 g | ClC1=CC=C2C(=C1NC1=NC=NC3=CC=CC(=C13)F)OCO2 | C15H9ClFN3O2
reactant | phenol | 0.45 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 0.828 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 1 equivalent | C(C)OCC | C4H10O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 4-(6-chloro-2,3-methylenedioxyanilino)-5-phenoxyquinazoline monohydrochloride | 0.05 g | Cl.ClC1=CC=C2C(=C1NC1=NC=NC3=CC=CC(=C13)OC1=CC=CC=C1)OCO2 | InChI=1S/C21H14ClN3O3.ClH/c22-14-9-10-17-20(27-12-26-17)19(14)25-21-18-15(23-11-24-21)7-4-8-16(18)28-13-5-2-1-3-6-13;/h1-11H,12H2,(H,23,24,25);1H
